US05610185
3,4-Difluorocinnamic acid β-phenylethyl ester (67J-17-A).
Reaction of 3,4-difluorocinnamic acid and β-phenylethyl alcohol as outlined in method A provided 67J-17-A as snow-white crystals (38% yield): mp 53°-57° C., 1H NMR (CDCl3) δ:7,49 (d, 1H, J=16 Hz), 7.30-7.05 (m, 8H) 6.27 (d, 1H, J=16 Hz), 4.36 (t, 2H, J=7.0 Hz), 3.82 (s, 3H), 2.95 (t, 2H, J=7.0 Hz); FABMS (NBA, +VE m/z 289 (M+H). Anal. (C17H14O2F2) C,H.

reactant | 3,4-difluorocinnamic acid | FC=1C=C(C=CC(=O)O)C=CC1F | C9H6F2O2
reactant | β-phenylethyl alcohol | C1(=CC=CC=C1)CCO | C8H10O
product | 3,4-Difluorocinnamic acid β-phenylethyl ester | 38% yield | C1(=CC=CC=C1)CCOC(C=CC1=CC(=C(C=C1)F)F)=O | C17H14F2O2
